US08431563B2
A 500 mL round-bottomed flask was charged with tert-butyl (3S)-3-methyl-4-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-1-piperazinecarboxylate (8.33 g, 21.5 mmol) and 200 mL of EtOAc. To this was added 20 mL of 4N HCl (80 mmol) in dioxane. After 12 h at reflux, the resulting white precipitate was collected and dried under reduced pressure to give 1,1,1-trifluoro-2-(4-((2S)-2-methyl-1-piperazinyl)phenyl)-2-propanol dihydrochloride (5.45 g) as a white solid.

reactant | tert-butyl (3S)-3-methyl-4-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-1-piperazinecarboxylate | 21.5 mmol, 8.33 g | C[C@H]1CN(CCN1C1=CC=C(C=C1)C(C(F)(F)F)(C)O)C(=O)OC(C)(C)C | C19H27F3N2O3
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
reactant | HCl | 80 mmol, 4N, 20 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1,1,1-trifluoro-2-(4-((2S)-2-methyl-1-piperazinyl)phenyl)-2-propanol dihydrochloride | 5.45 g | Cl.Cl.FC(C(C)(O)C1=CC=C(C=C1)N1[C@H](CNCC1)C)(F)F | InChI=1S/C14H19F3N2O.2ClH/c1-10-9-18-7-8-19(10)12-5-3-11(4-6-12)13(2,20)14(15,16)17;;/h3-6,10,18,20H,7-9H2,1-2H3;2*1H/t10-,13?;;/m0../s1
